US04840965
2,3,6-Trichloronaphthoquinone (13.1 g) is added in small portions to a solution previously prepared from ethylene glycol (500 ml) and sodium metal (2.3 g) and heated to 80° C. under nitrogen. Upon completion of the addition, the reaction mixture is diluted with water (1 L) and cooled. The resulting precipitate is collected to afford 6-chloro-2,3-ethylenedioxy-1,4-naphthoquinone as an orange solid.

reactant | 2,3,6-Trichloronaphthoquinone | 13.1 g | ClC=1C(C2=CC=C(C=C2C(C1Cl)=O)Cl)=O | C10H3Cl3O2
reactant | ethylene glycol | 500 ml | C(CO)O | C2H6O2
reactant | sodium | 2.3 g | [Na] | Na
solvent | water | 1 L | O | H2O
product | 6-chloro-2,3-ethylenedioxy-1,4-naphthoquinone | ClC=1C=C2C(C3=C(C(C2=CC1)=O)OCCO3)=O | C12H7ClO4
